US07863302B2
6-{4-[3-(2,6-Dichloro-phenyl-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1H-indole-3-carboxylic acid methyl ester
To a mixture of [3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-yl]-methanol (112 mg, 0.391 mmol) and 6-(4-hydroxy-2-methyl-phenyl)-1H-indole-3-carboxylic acid methyl ester (100 mg, 0.355 mmol) and toluene (7 mL) is added 1,1′-(azodicarbonyl)dipiperidine (99 mg, 0.39 mmol) followed by tri-n-butylphosphine (105 μL, 0.426 mmol). The mixture is allowed to stir overnight at room temperature. The reaction mixture is concentrated and purified via chromatography cluting with CH2Cl2 to give 85 mg (40%) of the title compound. ES/MS m/e 549.0 (M+1).

reactant | [3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-yl]-methanol | 0.391 mmol, 112 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
reactant | 6-(4-hydroxy-2-methyl-phenyl)-1H-indole-3-carboxylic acid methyl ester | 0.355 mmol, 100 mg | COC(=O)C1=CNC2=CC(=CC=C12)C1=C(C=C(C=C1)O)C | C17H15NO3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.39 mmol, 99 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-n-butylphosphine | 0.426 mmol, 105 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(2,6-Dichloro-phenyl-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1H-indole-3-carboxylic acid methyl ester | 85 mg, 40% | COC(=O)C1=CNC2=CC=CC(=C12)C1=C(C(=CC=C1)OC(C=1C=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C | C30H26Cl2N2O4
